### ISSUE TITLE
`simp at *` fails to close goal where `simp at h` does

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#5593]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

If the goal depends on a hypothesis `h` that `simp at h` can show to be contradictory, then `simp at h` closes the goal, but `simp at *` and `simp_all` do not.

### Context

This is almost a duplicate of #5094, but I think in the present issue the argument that something should be changed is slightly stronger because it exhibits a case where `simp at *` is not equivalent to `simp at <list of all hypoteses and the goal>`.

### Steps to Reproduce

```lean
example {α : Type u} (h : (none : Option α).isSome) : 1 = 2 := by
  simp at * -- succeeds

/--
error: unsolved goals
α : Type u
a : α
f : α → α
h : none.isSome = true
⊢ a = f (none.get h)
-/
#guard_msgs in
example {α : Type u} {a : α} {f : α → α} (h : (none : Option α).isSome) : none.elim a f = f (none.get h) := by
  simp at *

example {α : Type u} {a : α} {f : α → α} (h : (none : Option α).isSome) : none.elim a f = f (none.get h) := by
  simp at h -- succeeds
```

**Expected behavior:** All three proofs should succeed

**Actual behavior:** `simp at *` fails in the second example.

### Versions

`4.12.0-nightly-2024-10-01` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Note that
```
example {α : Type u} {a : α} {f : α → α} (h : (none : Option α).isSome) : none.elim a f = f (none.get h) := by
  exfalso
  simp at *
```
works. The issue is that the goal depends on `h`, so `h` cannot be rewritten easily. Presumably `simp at h` is understood by `simp` as “try harder” (by introducing `h'` if necessary). Maybe introducing these copies is not nice in `simp_all` (will that even terminate then?) or maybe even in `simp at *`?

So one *might* argue that it’s a feature not a bug, but I’m not sure.

**Comment by Kha** [comment]
Triaged: we're not planning on addressing this difference
